US08871753B2
Step C: tert-Butyl [6-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate
To a solution of tert-butyl {6-[2-(3-aminophenyl)ethyl]pyridin-2-yl}carbamate (200 mg, 0.64 mmol) and 2,4,5-trichloropyrimidine (123 mg, 0.67 mmol) in N,N-dimethylformamide (2.9 mL) was added potassium carbonate (264 mg, 1.91 mmol). The resultant mixture was stirred overnight at room temperature. The reaction mixture was filtered first to remove K2CO3, followed by quenching with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc twice. The combined organic layers were washed with water and then dried (Na2SO4), filtered and concentrated to give the residue, which was purified by silica gel column chromatography to give the desired product as a light brown gel (231 mg, 79%). LCMS for C17H16Cl2N5 [(M-Boc+H)+H]+: m/z=360.0, 362.0.

reactant | tert-butyl {6-[2-(3-aminophenyl)ethyl]pyridin-2-yl}carbamate | 0.64 mmol, 200 mg | NC=1C=C(C=CC1)CCC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C18H23N3O2
reactant | 2,4,5-trichloropyrimidine | 0.67 mmol, 123 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 1.91 mmol, 264 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.9 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [6-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate | 231 mg, 79% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=CC=CC(=N1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
